*****************************************************************************
* (C) Copyright 2018 Texas Instruments Incorporated. All rights reserved.     
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.      
** TI and its licensors and suppliers make no warranties, either expressed   
** or implied, with respect to this model, including the warranties of       
** merchantability or fitness for a particular purpose. The model is        
** provided solely on an "as is" basis. The entire risk as to its quality   
** and performance is with the customer                                    
*****************************************************************************	
* Released by: Analog eLab Design Center, Texas Instruments Inc.
* Part: AMC1311
* High Impedance, 2-V Input, Reinforced Isolated Amplifier
* Date: 05/14/2018
* Model Type: TINA
* Simulator: TINA-TI
* Simulator Version: 7.0.30.267 SF-TI
* Datasheet: SBAS786 - 23.NOV 2017
*
*****************************************************************************
* version 1.1:
*
*****************************************************************************	
* AMC1311 SUBCIRCUIT
* High Impedance, 2-V Input, Reinforced Isolated Amplifier
** source AMC1311

.SUBCKT AMC1311 VDD1 VIN SHTDN GND1 GND2 VOUTN VOUTP VDD2
XDFilter    POut1_11 VOCM NOut1 INP GND2 DFilter
XFilter     POut1_11 NOut1 GND2 VDD2 VOUTN VOCM VOUTP Filter_Block
XD4         GND2 VOUTN D_D2
XD3         VOUTN VDD2 D_D2
XD2         GND2 VOUTP D_D2
XD1         VOUTP VDD2 D_D2
XGain       POut1_13 GND1 VDD1 GND1 VDD2 GND2 INP GND2 FSO VGAIN
R3          GND2 GND1 100G 
C1          GND2 GND1  1.2P
RIO         VDD2 VDD1 100G 
CIO         VDD2 VDD1  1.2P
XInput      VIN SHTDN GND2 POut1_13 FSO VDD1 GND1 Input_circuit
.ENDS

.SUBCKT DFilter POut1 VOCM NOut1 INP GND2
R25         15 GND2 1 
GVCCS3      15 GND2 16 GND2  -1
GVCCS2      NOut1 VOCM VALUE = {0.5*V(15,GND2)}
GVCCS1      VOCM POut1 VALUE = {0.5*V(15,GND2)}
R22         VOCM NOut1 1 
R21         POut1 VOCM 1 
R6          17 INP 200K 
C6          16 GND2  428.833333F
C4          15 17  885.333333F
R5          16 17 200K 
.ENDS

.SUBCKT Filter_Block INP INN GND2 VDD2 VOUTN VOCM VOUTP
VPSref      29 GND2 3.3
R21ops      25 0 59 
L2ops       25 0  15.650236U
R1          26 25 1 
R11ops      27 0 59 
L1ops       27 0  62.600944U
R1ops       28 27 1 
G2ops       0 26 28 0  1
G1ops       0 28 29 VDD2  14.058532U
XOutputp VM_19 Neg_30 IGND_23 Bias IAVDD_24 VOUTP VDD2 Plus_31 GND2 Vt0p Vt0 
+ Output 
C7          32 33  3.64P
EVCVS2      32 GND2 35 GND2  1
EVCVS1      34 GND2 36 GND2  1
R16         37 INP 200K 
C8          36 35  1.493333P
R15         33 INN 200K 
R14         35 33 200K 
C5          34 37  3.64P
R11         36 37 200K 
XOutputn VM_19 Neg_38 IGND_23 Bias IAVDD_24 VOUTN VDD2 Plus_39 GND2 Vt0p Vt0 
+ Output_1 
R8          40 34 200K 
R22ops      41 0 10 
C2ops       Veps_18 41  1.607626N
Epsp        VOCM Plus_31 Veps_18 0  -1
Epsn        Plus_39 VOCM Veps_18 0  -1
R3ops       Veps_18 0 990 
G3ops       0 Veps_18 26 0  1.010101M
C3          40 42  4.76P
R7          42 32 200K 
C4          VOUTP Neg_30  1.026667P
R6          Neg_30 42 100K 
R5          VOUTP 42 200K 
C2          VOUTN Neg_38  1.026667P
R3          Neg_38 40 100K 
R2          VOUTN 40 200K 
XBias       IAVDD_24 VDD2 IGND_23 GND2 Bias VM_19 Vt0p Vt0 VOCM Bias
.ENDS

.SUBCKT Output VM Neg IGND Bias IAVDD OUT VDD2 Plus GND2 Vt0p Vt0
VAM2        47 VGN_45 0
VAM1        50 OUT 0
Vo21        IAVDD 53 695.218247M
Vo22        48 IGND 695.218247M
XD5         VGP_44 VDD2 D_LIM1005
XD3         GND2 VGN_45 D_LIM1005
XD6         46 VGP_44 D_LIM1005
XD1         48 VV_43 D_LIM1
XD4         VGN_45 49 D_LIM1005
RO2         VDD2 51 10 
RO1         52 GND2 10 
XD2         VV_43 53 D_LIM1
C33         VV_43 VM  15.915494F
XT7         50 VGP_44 51 VDD2 Q_PMOS_OUT_L1
+ PARAMS: M=25 W=20U L=0.8U
XT2         OUT VGN_45 52 GND2 Q_NMOS_OUT_L1
+ PARAMS: M=25 W=20U L=0.8U
EVMP2       VDD2 46 VALUE = {LIMIT(1.02*V(VDD2,Vt0p),0,V(VDD2,GND2))}
EVMN2       49 GND2 VALUE = {LIMIT(1.02*V(Vt0,GND2),0,V(VDD2,GND2))}
Ro23        VM Neg 100G 
Ro22        Plus VM 100G 
Ro21        Neg Plus 1G 
Co21        Neg Plus  10F
Rdn2        VGP_44 Vt0p 2.041402MEG 
Gdn2        Vt0p VGP_44 VM VV_43  146.95U
Rdn1        47 Vt0 2.041402MEG 
Gdn1        Vt0 47 VM VV_43  146.95U
Cf5         OUT 47  1P
Cf4         VGP_44 OUT  1P
Co23        VM Neg  10F
RCo23_RPAR  VM Neg 1T
Co22        Plus VM  10F
RCo22_RPAR  Plus VM 1T
R83         VV_43 VM 100K 
G23         VM VV_43 Plus Neg  10U
.ENDS

.SUBCKT Output_1 VM Neg IGND Bias IAVDD OUT VDD2 Plus GND2 Vt0p Vt0
VAM2        58 VGN_56 0
VAM1        61 OUT 0
Vo21        IAVDD 64 695.218247M
Vo22        59 IGND 695.218247M
XD5         VGP_55 VDD2 D_LIM1005
XD3         GND2 VGN_56 D_LIM1005
XD6         57 VGP_55 D_LIM1005
XD1         59 VV_54 D_LIM1
XD4         VGN_56 60 D_LIM1005
RO2         VDD2 62 10 
RO1         63 GND2 10 
XD2         VV_54 64 D_LIM1
C33         VV_54 VM  15.915494F
XT7         61 VGP_55 62 VDD2 Q_PMOS_OUT_L1
+ PARAMS: M=25 W=20U L=0.8U
XT2         OUT VGN_56 63 GND2 Q_NMOS_OUT_L1
+ PARAMS: M=25 W=20U L=0.8U
EVMP2       VDD2 57 VALUE = {LIMIT(1.02*V(VDD2,Vt0p),0,V(VDD2,GND2))}
EVMN2       60 GND2 VALUE = {LIMIT(1.02*V(Vt0,GND2),0,V(VDD2,GND2))}
Ro23        VM Neg 100G 
Ro22        Plus VM 100G 
Ro21        Neg Plus 1G 
Co21        Neg Plus  10F
Rdn2        VGP_55 Vt0p 2.041402MEG 
Gdn2        Vt0p VGP_55 VM VV_54  146.95U
Rdn1        58 Vt0 2.041402MEG 
Gdn1        Vt0 58 VM VV_54  146.95U
Cf5         OUT 58  1P
Cf4         VGP_55 OUT  1P
Co23        VM Neg  10F
RCo23_RPAR  VM Neg 1T
Co22        Plus VM  10F
RCo22_RPAR  Plus VM 1T
R83         VV_54 VM 100K 
G23         VM VV_54 Plus Neg  10U
.ENDS

.SUBCKT Bias IAVDD VDD2 IGND GND2 Bias VM Vt0p Vt0 VOCM
VS2         67 68 1.2
XU5         0 Vocmtemp VOCMTEMP
EVSOCM      VOCM GND2 VALUE = {LIMIT(V(Vt0,GND2)*2,0,(1.4461-1.8182M*V(VDD2,GND2))*V(Vocmtemp,0))}
GIb2        IGND Bias VALUE = {48.98M*V(VDD2,GND2)+730.612M}
Rb3         Bias IGND 1 TC=970U,-77N
R3          68 GND2 10MEG 
R2          VDD2 69 10MEG 
EVCVS1      VM IGND VALUE = {0.5*V(IAVDD,IGND)}
EAVDD       IAVDD IGND VALUE = {5*V(Bias,IGND)}
EGND        IGND 0 GND2 0  1
EBMG        70 GND2 Vt0 GND2 1
XT4         69 69 VDD2 VDD2 Q_PMOS_OUT_L1_1
+ PARAMS: M=1 W=10U L=4U 
XT1         VT1 70 GND2 GND2 Q_NMOS_OUT_L1_1
+ PARAMS: M=9 W=21U L=0.8U
XT3         68 68 GND2 GND2 Q_NMOS_OUT_L1_2
+ PARAMS: M=1 W=10U L=4U 
XD2         67 69 D_LIM1_1
Rsp1        VDD2 VT1 2.111111K 
GIb1        69 68 Bias IGND  10U
Rpsrr1      69 68 10MEG 
EVMP1       Vt0p VDD2 69 VDD2  1
EVMN1       Vt0 GND2 68 GND2  1
.ENDS

.SUBCKT Input_circuit VIN SHTDN GND2 POut1 FSO VDD1 GND1
VPSref      89 GND1 5
L4          77 0  1.6242U
R12         77 0 999 
R4          Venoise 77 1 
GVCCS2      0 Venoise 0 78  1
XD3         79 GND1 D_ZR_5V3
R3          SHTDN GND1 1G 
XU3         SHTDN GND1 80 GND1 VDD1 HYSTCOMPGD_VDD
+ PARAMS: VOUTH=1 VOUTL=0 ROUT=100 DELAY=100N
XU1         81 IGND_72 FSO IGND_72 HYSTCOMPG_THLRF
+ PARAMS: VOUTH=1 VOUTL=0 ROUT=100 TDLH=48U TDHL=1U TRISE=1N TFALL=1N VTHRES=0.5
+ VHYST=100m
C3          VIN GND1  2P
C1          VLCM GND1  5P
XU_1        VLCM GND1 VDD1 GND1 IIB
R2          VLCM GND1 1G 
R1          VIN VLCM 5K 
XD2         79 VLCM D_LIMINH
XD1         VLCM VDD1 D_LIMINH
XD9         82 GND1 D_ZR_5V3
XD8         GND1 SHTDN D_D2
XD7         SHTDN VDD1 D_D2
XD6         82 VIN D_D2
XD5         VIN VDD1 D_D2
GVCCS1      IGND_72 81 VALUE = {IF(V(80,GND1)>0.5|V(83,IGND_72)<0.5,1,0)}
R11         81 IGND_72 1 
XU2         VDD1 GND1 83 IGND_72 HYSTCOMPGD
+ PARAMS: VTHRES=2.73 VHYST=200M VOUTH=1 VOUTL=0 ROUT=100 DELAY=100N
Eios        VLCM POut1 VALUE = {V(Venoise,0)+50.1187N*V(GND1,GND2)+V(VOS,0)+V(Veps_73,0)+V(Venoise,0)}
L3          84 0  1.6242U
R10         84 0 999 
R9          78 84 1 
Gnoise      0 78 0 85  1.225295
L2          86 0  716.197244N
R8          86 0 9 
R7          Veps_73 86 1 
G88ps       0 Veps_73 87 0  1
R6          88 0 9 
L1          88 0  7.161972U
R5          87 88 1 
G8ps        0 87 89 VDD1  446.683592U
XU5         0 VOS VOST
Rnoise2     85 0 4.8263MEG 
Rnoise1     85 0 4.8263MEG 
XBias       GND1 IGND_72 IAVDD_76 VM_75 VDD1 FSO Bias_1
C37         SHTDN GND1  5P
.ENDS

.SUBCKT Bias_1 GND1 IGND IAVDD VM VDD1 SHTDN
Rp1         VDD1 GND1 3.846154MEG TC=-6M,22U
GIS1        91 GND1 VALUE = {(5.4896M*(973.4933M+TEMP*1060.3U)+V(91,GND1)/1.5625K)*(1-V(SHTDN,GND1))}
EVSVM       VM IGND IAVDD IGND  400M
EAVDD       IAVDD IGND VALUE = {LIMIT(5*(V(VDD1,GND1)-1.4),5,0)}
Rs4         91 GND1 1.5625G TC=-6M,22U
XD1         GND1 91 D_D4
XDZb1       91 VDD1 D_ZB1
EGND        IGND 0 GND1 0  1
.ENDS

.SUBCKT D_D2 1    2
D1 1 2  D2
.ENDS

.SUBCKT VGAIN INP INN VDD1 GND1 VDD2 GND2 OUTP OUTN FSO
.PARAM TCGERR0= {-30E-6}
.PARAM TCGERRB= {-5E-6}
.PARAM TCGERR= {TCGERR0}
.PARAM EG0= {0.400/100}
.PARAM EGB= {0.0629519/100}
.PARAM EG= { EG0 }
.PARAM Gin={8.2}
.PARAM Gout={1.0}
.PARAM G={8.2}
.PARAM RG1= {0.01}
.PARAM RG2= {1/Gin}
.PARAM I0 = 1
.PARAM R0 = {1/(I0*Gout)}
.PARAM Rout = {R0*(1 + 2*TCGERR + EG - 96.4519m/100)}
.PARAM TC1= {TCGERR/R0/I0}
.PARAM K=1.2
.PARAM C25={56.0014427*K}
.PARAM B25={0.146489/K}
.PARAM C125={47.45704}
.PARAM B125={0.17289}

.PARAM MC={0}
.PARAM C0={C25 - MC}
.PARAM MB={0}
.PARAM B0={B25 - MB}

.PARAM A0={-0.010854}
.PARAM D0={0.088938}

.PARAM Vclip={2.516}
.PARAM VL={Vclip}
.PARAM VLFSO={-2.6/Rout}

GVDD1 0 G1 TABLE {V(VDD1,GND1)} = (3,0.0617284, 3.50217,0.0345679, 4.00435,0.0296296, 4.50000,0.0320988, 4.99783,0.0518519, 
+ 5.49783,0.0592593)
RG1 G1 0 {RG1}

GVDD2 0 G12 TABLE {V(VDD2,GND1)} = (3,0.0637284, 3.25217,0.0629519, 3.50652,0.0637284, 3.75000,0.0641975, 4.24783,0.0641975,
+ 4.75217,0.0641975, 5.25217,0.0641975, 5.49783,0.0641975)
RG12 G12 0 {RG1}
G2 0 G2 VALUE = { Limit(V(INP,INN), -VL, VL) }
RG2 G2 0 {RG2}
G1 OUTN OUTP  VALUE = {IF ( V(FSO,GND1) < 0.5, (C0*(1 + V(G1))*(1 + (V(G12)-EGB))*TANH( B0*(V(G2) + A0) ) + D0), VLFSO) }
ROUT OUTP OUTN  RMOD2 {Rout}
.MODEL RMOD2 RES (TC1={TC1} TC2=0 TCE=0)

Itemp 0 Temp 1
RTemp Temp 0 RTemp 1
.MODEL RTemp RES (TC1={1} TC2=0 TCE=0)
.ENDS

.SUBCKT D_LIM1005 1 2
D1 1 2  D_Lim1005_M
.ENDS

.SUBCKT D_LIM1 1 2
D1 1 2  D_Lim1_M
.ENDS

.SUBCKT Q_PMOS_OUT_L1 D G S B PARAMS:  M = 1 W = 100U L = 10U
M1 D G S B Q_PMOS_Out_L1_M W = {W} L = {L} M = {M} 
.ENDS

.SUBCKT Q_NMOS_OUT_L1 D G S B PARAMS:  M = 1 W = 100U L = 10U
M1 D G S B Q_NMOS_Out_L1_M  W = {W} L = {L} M = {M} 
.ENDS

.SUBCKT VOCMTEMP 1 2
.PARAM R0 = {1/1.44}
GVocmtemp 1 2 table {TEMP} = (-55,1.43532, -39.6341,1.43680, -24.8955,1.43778, -9.84321,1.43901, 4.89547,1.43975, 19.9477,1.44000,
+ 35,1.44025, 49.8955,1.44037, 65.1045,1.44049, 80.1568,1.44025, 94.8955,1.43988, 109.948,1.43926, 124.686,1.43852)
Rout 1 2 {R0}
.ENDS

.SUBCKT Q_PMOS_OUT_L1_1 D G S B PARAMS:  M = 1 W = 100U L = 10U
M1 D G S B Q_PMOS_Out_L1_M W = {W} L = {L} M = {M} AD={W*LS} AS={W*LS} PD={W + 2*LS} PS={W + 2*LS} 
+ NRD={LS/W} NRS={LS/W}
.ENDS

.SUBCKT Q_NMOS_OUT_L1_1 D G S B PARAMS:  M = 1 W = 100U L = 10U
M1 D G S B Q_NMOS_Out_L1_M  W = {W} L = {L} M = {M} AD={W*LS} AS={W*LS} PD={W + 2*LS} PS={W + 2*LS} 
+ NRD={LS/W} NRS={LS/W}
.ENDS

.SUBCKT Q_NMOS_OUT_L1_2 D G S B PARAMS:  M = 1 W = 100U L = 10U
M1 D G S B Q_NMOS_Out_L1_M  W = {W} L = {L} M = {M} AD={W*LS} AS={W*LS} PD={W + 2*LS} PS={W + 2*LS} 
+ NRD={LS/W} NRS={LS/W}
.ENDS

.SUBCKT D_LIM1_1 1 2
D1 1 2  D_Lim1_M
.ENDS

.SUBCKT D_ZR_5V3 1    2
D1 1 2  D_Z5V3
.MODEL D_Z5V3 D( IS=1P N=1.0 BV=5.3 IBV=1.0M RS=10 XTI=0 EG=0.48 )
.ENDS 

.SUBCKT HYSTCOMPGD_VDD inp inm out gnd vdd
+ Params: VoutH=5 VoutL=0 Rout=1 Delay=1N
.PARAM Tdel = {MAX(Delay,MinADel)}
.Param Rdel = {IF ( (Tdel > 1E-15) & (Rout < 1), 1, Rout ) }
.Param VoutM={(VoutH+VoutL)/2}
.Param Cout={Tdel/(0.693*(Rdel+1u))}
.Param Gdlh={1/Rdel}
.Param Gdhl={1*Gdlh}
EVthrH VthrH 0 value = {0.7*V(vdd,gnd)}
EVthrL VthrL 0 value = {0.3*V(vdd,gnd)}

Gthr gnd thr Value= { IF ( V(out,gnd) < VoutM, V(VthrH), V(VthrL) ) }
Rthr gnd thr 1

Gout gnd out Value= { IF ( (V(inp,inm) > V(thr,gnd)), (VoutH - V(out,gnd))*Gdlh, (VoutL - V(out,gnd))*Gdhl ) }
Cout out gnd {Cout}
Rout out gnd {1e5*Rdel}
.ENDS

.SUBCKT HYSTCOMPG_THLRF inp inm out gnd 
+ Params: Vthres=0 Vhyst=1 VoutH=5 VoutL=0 Rout=1 Tdlh=1N Tdhl=1N Trise=1N Tfall=1N 
* Trise ->   90%*(VoutH-VoutL), Tfall -> 10%*(VoutH-VoutL)
.PARAM Tdellh = {MAX(Tdlh,MinADel)}
.PARAM Tdelhl = {MAX(Tdhl,MinADel)}
.Param Rdel = {IF ( ((Tdellh > 1E-15)|(Tdelhl > 1E-15)) & (Rout < 1), 1, Rout ) } 
.Param Ro = {IF ( ((Trise > 1E-15)|(Tfall > 1E-15)) & (Rout < 1), 1, Rout ) } 
.Param VoutM={(VoutH+VoutL)/2}
.Param Tdmin= 1p
.Param Cdel={Sqrt((Tdelhl+Tdmin)*(Tdellh+Tdmin))/(4.6*(Rdel+1u))}
.Param Gdlh={Sqrt((Tdelhl+Tdmin)/(Tdellh+Tdmin))/Rdel}
.Param Gdhl={(Tdellh+Tdmin)/(Tdelhl+Tdmin)*Gdlh}

.Param Cout={Sqrt(Tfall*Trise)/(2.287*(Ro+1u))}
.Param Gr={Sqrt(Tfall/(Trise+Tdmin))/Ro}
.Param Gf={(Trise+Tdmin)/Tfall*Gr}

.Param VthH={Vthres+Vhyst}
.Param VthL={Vthres-Vhyst}

Rinp inp gnd 1G
Rinm inm gnd 1G
Gthr gnd thr Value= { IF ( V(out,gnd) < {VoutM}, {VthH}, {VthL}) }
Rthr gnd thr 1

Gouti gnd outi Value= { IF ( (V(inp,inm) > V(thr,gnd)), (VoutH - V(outi,gnd))*Gdlh, (VoutL - V(outi,gnd))*Gdhl ) }
Couti outi gnd {Cdel}
Routi outi gnd {1e5*Rdel}

Gthro gnd thro Value= { IF ( V(out,gnd) < VoutM, VoutH*0.99, VoutH*0.01 ) }
Rthro gnd thro 1
Gout gnd out Value= { IF ( (V(outi, gnd) > V(thro,gnd)), (VoutH - V(out,gnd))*Gr, (VoutL - V(out,gnd))*Gf ) }
Cout out gnd {Cout}
Rout out gnd {1e5*Ro}
.ENDS

.SUBCKT IIB 1 2 Vdd Gnd
.PARAM Rtemp = {1/3.50985}
.PARAM RVdd = {1/1.0}
GVocmtemp 0 10 table {TEMP} = (-55,3.84236, -25.2609,3.76847, 4.79130,3.62069, 24.5130,3.50985, 34.9478,3.49754, 
+ 49.7130,3.47291, 64.7391,3.47291, 79.7130,3.49754, 94.6348,3.69458, 109.661,3.95320, 124.374,4.35961)
R1 10 0 { Rtemp}
GIibvdd 0 20 table {V(Vdd,Gnd)} = (0,0, 3,1.73219, 3.49652,2.24816, 3.99739,2.61671, 
+ 4.50261,3.13268, 5.00348,3.50123, 5.50000,3.86978)
R2 20 0 {RVdd}
GIib 1 2 Value = { V(20)*V(10)*1n}
.ENDS

.SUBCKT D_LIMINH 1 2
D1 1 2  D_Liminh

.MODEL D_Liminh D( IS=3.5f N=1.0 RS=0 XTI=0 AF=0 KF=0 EG=0.55)
.ENDS

.PARAM MinADel = {1n}
.SUBCKT HYSTCOMPGD inp inm out gnd 
+ Params: Vthres=0 Vhyst=1 VoutH=5 VoutL=0 Rout=1 Delay=1N
.PARAM Tdel = {MAX(Delay,MinADel)}
.Param Rdel = {IF ( (Tdel > 1E-15) & (Rout < 1), 1, Rout ) }
.Param VoutM={(VoutH+VoutL)/2}
.Param VthH={Vthres+Vhyst}
.Param VthL={Vthres-Vhyst}
.Param Cout={Tdel/(0.693*(Rdel+1u))}
.Param Gdlh={1/Rdel}
.Param Gdhl={1*Gdlh}
Gthr gnd thr Value= { IF ( V(out,gnd) < {VoutM}, {VthH}, {VthL}) }
Rthr gnd thr 1
Gout gnd out Value= { IF ( (V(inp,inm) > V(thr,gnd)), (VoutH - V(out,gnd))*Gdlh, (VoutL - V(out,gnd))*Gdhl ) }
Cout out gnd {Cout}
Rout out gnd {1e5*Rdel}
.ENDS

.SUBCKT VOST 1 2
.PARAM I0 = 1M
.PARAM DVOS_DT= {-20.0U}

.PARAM VOFFS = {-119.0U + 2*DVOS_DT}
.PARAM R0 = {VOFFS/I0}
.PARAM TC1= {DVOS_DT/R0/I0}

R2 40 0 RMOD2 {R0}
I2 40 0 {I0}
E3 1 2 40 0 1
.MODEL RMOD2 RES (TC1={TC1} TC2=0 TCE=0)
.ENDS

.SUBCKT D_D4 1    2
D1 1 2  DD
.MODEL DD D( IS=10n N=0.50 RS=1 XTI=0 Eg=0.35)
.ENDS

.SUBCKT D_ZB1 1    2
D1 1 2  D_4_9V
CD 1 2 10P
.MODEL D_4_9V D( IS=1n N=1.0 BV=2.4 IBV=1.0m RS=0 XTI=0 EG=0.55)
.ENDS 

.SUBCKT D_LIMCM 1 2
D1 1 2  D_Limcm
.MODEL D_LIMcm D( IS=1p N=1.0 RS=100 XTI=0 AF=0 KF=0 EG=1.1)
.ENDS

*Parameters: 0.4um CMOS
.PARAM LS = 1.0U
.PARAM VTOHP = 0.75
.PARAM VTOHN = 0.75

.PARAM LAMBDA = 10M

.PARAM GAMMA = 0.00
.PARAM KAPPA = 1.0
.PARAM THETA = 0.23
.PARAM ETA = 3

.PARAM KPN = {UON*COX * 1e-4}
.PARAM KPP = {UOP*COX * 1e-4}
.PARAM LDN = 0.09U
.PARAM LDP = 0.09U
.PARAM RSW = 1810
.PARAM RSN = 1.41
.PARAM RDS = 10MEG
.PARAM VBMUL = 1E6
.PARAM RPAR = 1T
.PARAM CBDJ = 1.0 
.PARAM CBDS = 1.0
.PARAM CGBF = 1.0
.PARAM PBP = 0.7
.PARAM PBN = 0.7
.PARAM UON = 450
.PARAM UOP = 450
.PARAM CJN = {200U}
.PARAM CJP = {400U} 
.PARAM CJSWN = {1.2N}
.PARAM CJSWP = {2.4N}
.PARAM XJN = 0.15U
.PARAM CGSON = {0.6*XJN*COX} 
.PARAM CGDON = {CGSON}
.PARAM CGBON = {CGBF*CGDON}
.PARAM XJP = 0.18U
.PARAM CGSOP = {0.6*XJP*COX} 
.PARAM CGDOP = {CGSOP}
.PARAM CGBOP = {CGBF*CGDOP}
.PARAM EPSSIO2 = {3.9*8.854214871E-12}
.PARAM TOX = 80E-10
.PARAM COX = {EPSSIO2/TOX}
.MODEL Q_NMOS NMOS Level=1 L=2U W=10U KP={KPN} VTO={VTOHN}  AF=0 KF=0
.MODEL Q_PMOS PMOS Level=1 L=2U W=10U KP={KPP} VTO={-VTOHP}  AF=0 KF=0
.MODEL Q_NMOS_Out_L1_M NMOS LEVEL=1 L=10U W=100U KP={KPN} VTO={VTOHN} LAMBDA={LAMBDA}
+ CJ={CJN} CJSW={CJSWN} CGSO={CGSON} CGDO={CGDON} RSH= 4 PB={PBN} LD= {LDN} RDS={RDS} 
.MODEL Q_NMOS_Out NMOS LEVEL=3 L=10U W=100U KP={KPN} VTO={VTOHN} THETA={THETA}
+ CJ={CJN} CJSW={CJSWN} CGSO={CGSON} CGDO={CGDON} RSH= 4 PB={PBN} LD= {LDN} RDS={RDS} TOX={TOX} XJ={XJN}
+ GAMMA={GAMMA} KAPPA={KAPPA} ETA={ETA}
.MODEL Q_PMOS_Out_L1_M PMOS LEVEL=1 L=10U W=100U KP={KPP} VTO={-VTOHP} LAMBDA={LAMBDA}
+ CJ={CJP} CJSW={CJSWP} CGSO={CGSOP} CGDO={CGDOP} RSH=4 PB={PBP} LD= {LDP} RDS={RDS} 
.MODEL Q_PMOS_Out PMOS LEVEL=3 L=10U W=100U KP={KPP} VTO={-VTOHP} THETA={THETA}
+ CJ={CJP} CJSW={CJSWP} CGSO={CGSOP} CGDO={CGDOP} RSH=4 PB={PBP} LD= {LDP} RDS={RDS} TOX={TOX} XJ={XJP}
+ GAMMA={GAMMA} KAPPA={KAPPA} ETA={ETA}
.MODEL D_Lim1_M D( IS=10F N=1.0 RS=1000 XTI=0 AF=0 KF=0 EG=1.11)
.MODEL D_Lim100 D( IS=10F N=1.0 RS=100 XTI=0 AF=0 KF=0 EG=1.11)
.MODEL D_Lim1005_M D( IS=10F N=0.5 RS=100 XTI=0 AF=0 KF=0 EG=0.555)
.MODEL D_Lim10 D( IS=10F N=1.0 RS=10 XTI=0 AF=0 KF=0 EG=1.11)
.MODEL D_Lim2 D( IS=10f N=0.5 RS=1 XTI=0 AF=0 KF=0 EG=0.555 )
.MODEL D_Lim3 D( IS=1E-18 N=1.0 RS=1 XTI=0 AF=0 KF=0)
.MODEL D_Lim4 D( IS=10F N=1.0 RS=1m XTI=0 AF=0 KF=0)
.MODEL D1 D( IS=1p N=1.0 RS=0 XTI=3 AF=0 KF=0 )
.MODEL DZ_14V D( IS=1p N=1.0 BV=14.0 IBV=5.0M XTI=0 RS=10)
.MODEL DZ_80V D( IS=1p N=1.0 BV=80.0 IBV=5.0M XTI=0 RS=10)
.MODEL D2 D( IS=1p N=1.0 XTI=0 RS=10)


